US05185346
A mixture of 5.34 parts of 6-[chloro(4-chlorophenyl)methyl]quinoline, 6.4 parts of 1H-1,2,4-triazole, 1.26 parts of potassium carbonate and 79 parts of acetonitrile was stirred for 8 hours at reflux temperature. After evaporation to dry, the residue was taken up in water and was further purified according to similar procedures as described in example 12, yielding 3 parts (49.2%) of 6-[(4-chlorophenyl)(4-H-1,2,4-triazol-4-yl)methyl]quinoline hemihydrate; mp. 87.8° C. (compound 35).

reactant | 6-[chloro(4-chlorophenyl)methyl]quinoline | ClC(C=1C=C2C=CC=NC2=CC1)C1=CC=C(C=C1)Cl | C16H11Cl2N
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-[(4-chlorophenyl)(4-H-1,2,4-triazol-4-yl)methyl]quinoline hemihydrate | 49.2% | O.ClC1=CC=C(C=C1)C(C=1C=C2C=CC=NC2=CC1)N1C=NN=C1.ClC1=CC=C(C=C1)C(N1C=NN=C1)C=1C=C2C=CC=NC2=CC1 | InChI=1S/2C18H13ClN4.H2O/c2*19-16-6-3-13(4-7-16)18(23-11-21-22-12-23)15-5-8-17-14(10-15)2-1-9-20-17;/h2*1-12,18H;1H2
